US05726328
Alternatively, the ester may be saponified to obtain the ambrettolic acid. The crude ambrettolic acid obtained by saponification was transformed into its glycerine polyester by heating under a slight vacuum at 180° C. for a period of 4 to 5 hours. The resulting polyesters were then depolymerized in the presence of a mineral base, potassium hydroxide, to give ambrettolide which was distilled off by azeotropic distillation using glycerine. After fractionation, 43 g of cis-oxacyclopheptadec-12-en-2-one (Product II) containing 86% of the cis-derivative and 13% of the trans-derivative, was obtained (as determined by GLC analysis) (Tb 125° C.-128° C. at 0.2 mm Hg).

reactant | ambrettolic acid | C(CCCCO)CCC/C=C/CCCCCC(=O)O | C16H30O3
reactant | potassium hydroxide | [OH-].[K+]
product | ambrettolide | C1CCCCOC(=O)CCCCC/C=C\CCC1 | C16H28O2
